US05384411
Example 6--Preparation of 2-Sulfoterephthalic acid
A 500 ml 3-neck flask equipped with an air condenser (connected to Drierite tube), stirrer and thermometer, was charged with terephthalic acid (100 g), oleum (190 g, 3.76 mol of 27-33%) and mercury (2.7 g). The light brown solution was stirred at 255°-260° C. for 7 hours. The color of the mixture changed to dark brown. The reaction mixture was cooled overnight to room temperature, a precipitate had formed. The mixture was then poured very slowly and portionwise into a beaker of ice cold water, (132 ml), whereupon a homogenous solution was formed. Upon cooling, a precipitate formed and the whole was allowed to stand for 2 hours. The precipitate was filtered. The solid acid thus obtained was dissolved in 750 ml of hot H2O, charcoal was added and the mixture allowed to reflux for 35 minutes. It was then filtered hot, passed through a pad of celite, and the filtrate was cooled in an ice bath. The solution was saturated with gaseous hydrogen chloride (1 hour) and the product precipitated out. The precipitate was collected by filtration, dried over P2O5 in a vacuum dessicator for 48 hours (79 g, 53%), and recrystallized 3 times from acetic acid. Further purification was carried out as follows. The material was dissolved in 200 ml of hot acetic acid and allowed to reflux for 30 minutes. It was then filtered hot and the filtrate was stored in a refrigerator overnight. The precipitate which resulted was filtered and dried at room temperature for several hours and then under high vacuum. The dry pale yellow product (61 g, 41%) melted at 244°-249° C. (Lit 254°-258° C.); Rf=0.35 (1 ml acetic acid: 1 ml H2O: 1.5 ml n-BuOH).

reactant | Drierite | [O-]S(=O)(=O)[O-].[Ca+2]
reactant | terephthalic acid | 100 g | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | oleum | 3.76 mol, 190 g | OS(=O)(=O)O.O=S(=O)=O
reactant | charcoal | C | CH4
solvent | H2O | 750 ml | O | H2O
catalyst | mercury | 2.7 g | [Hg] | Hg
product | 2-Sulfoterephthalic acid | S(=O)(=O)(O)C1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H6O7S
